US04242510
Palladium carbon (0.8 g.) was added to a mixture of 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.0 g.), methanol (20 ml.), tetrahydrofuran (40 ml.), acetic acid (0.3 ml.) and water (3 ml.), and subjected to catalytic reduction under ordinary pressure at room temperature for 4 hours. After removing the catalyst from the resultant mixture by filtration, the filtrate was concentrated at 40° C. in vacuo. Ethyl acetate (20 ml.) was added to the residue, and the solution was adjusted to pH 6.5 to 7.0 with a saturated aqueous solution of sodium bicarbonate, stirred for 30 minutes and then filtered. The insoluble product was washed with water (10 ml.). The filtrate and washings were combined together, and the aqueous layer was separated washed with ethyl acetate and adjusted to pH 5.0 with 10% hydrochloric acid. The solution was treated with activated charcoal (0.1 g.) for 5 minutes and then filtered in vacuo. The filtrate was washed with diethyl ether and the organic solvent was removed by introducing nitrogen gas. The aqueous layer was adjusted to pH 2.0 with 10% hydrochloric acid under ice cooling and extracted with ethyl acetate (50 ml.) twice. The extract was washed with ice-water, dried over magnesium sulfate and filtered. The filtrate was concentrated at 40° C. in vacuo and the residue was crystallized with diethyl ether (30 ml.). The crystals were collected by filtration, washed with diethyl ether and dried to give 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.9 g.), pale yellow powder.

reactant | 4-nitrobenzyl 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 2.0 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H20N4O7S3
reactant | methanol | 20 ml | CO | CH4O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium carbon | 0.8 g | [C].[Pd]
solvent | water | 3 ml | O | H2O
product | 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.9 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC | C14H15N3O5S3
